Name:  ___                Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: NEUROSURGERY
 
Allergies: 
Penicillins
 
Attending: ___.
 
Chief Complaint:
Right paraophthalmic ICA Aneurysm 
 
Major Surgical or Invasive Procedure:
___ - Pipeline embolization of Right paraophthalmic ICA 
Aneurysm 
 
History of Present Illness:
___ years old and has
history of lung cancer in ___.  She quit smoking ___ years ago.  


She has no family history of aneurysms, but does have vertigo 
and
in evaluation of vertigo, MRI/MRA study was obtained and
suggested the possibility of intracranial aneurysm.  Follow up 
CT
angiogram was obtained, which showed two things.  One was a
venous anomaly in the left hemisphere, which is a fairly good
sized, but have no clinical significance that we know of.  She
does have a right internal carotid artery paraclinoid aneurysm,
which appears to be approximately 6-7 mm in diameter.  I have
discussed this with the patient and her husband and I do plan to
review all her films at our weekly neurovascular conference.  

I do not think this accounts for any of her vertiginous 
symptoms.
 Her vertigo is such that she gets out of bed at night and feels
dizzy or when she moves her head quickly, she feels dizzy and I
think this could be benign positional vertigo and we may well
investigate for any maneuver with physical therapy to assist 
with
this.  I spent approximately 40 minutes with the patient and her
husband, of which over half was spent in counseling and film
review.  We reviewed the natural history of aneurysms as well as
potential treatment options of endovascular and surgical
management.  I think her lesion were to be treated, this would
take the form of endovascular approach and possibly placement of
a flow diverter.  She understands and wants us to proceed with
our evaluation.  She was grossly intact from a neurologic
standpoint on today's evaluation.
 
Past Medical History:
- peripheral neuropathy
- h/o of thorascopic resection of portion of Rt Lung
- Vertigo
- H/o Lung cancer s/p chemo
- h/o breast cancer s/p chemo 
- venous anomaly in L hemisphere of brain
- hysterectomy
- cholecystectomy
- cataracts
 
Social History:
___
Family History:
No known family history of aneurysms 
 
Physical Exam:
ON DISCHARGE: 
=============

General:
in no acute distress
no O2 needs, saturations
no SOB or chest pain

Bowel Regimen: [x]Yes [ ]No    

Exam:
Opens eyes: [x]spontaneous [ ]to voice [ ]to noxious

Orientation: [x]Person [x]Place [x]Time

Follows commands: [ ]Simple [x]Complex [ ]None

Pupils:  Right 3-2mm   Left 3-2mm

EOM: [x]Full [ ]Restricted

Face Symmetric: [x]Yes [ ]NoTongue Midline: [x]Yes [ ]No

Pronator Drift: [ ]Yes [x]No     Speech Fluent: [x]Yes [ ]No

Comprehension intact: [x]Yes [ ]No

Motor:
TrapDeltoidBicepTricepGrip
Right 5         5     5        5      5
Left 5         5     5        5      5

IPQuadHamATEHLGast
Right5         5      5      5        5       5
Left5         5      5      5        5       5

[x]Sensation intact to light touch in all four extremities 

RIGHT Angio Groin Site: [x]Soft, with skin ecchymosis  present, 
no active  extravasation or drainage
                  [x]Palpable pulses, extremity warm

 
Pertinent Results:
Please refer to OMR for pertinent imaging and lab results. 
 
Brief Hospital Course:
#Right ICA Aneurysm s/p pipeline embolization
___ is a ___ year old female with right ICA anerusym 
who presents for elective pipeline embolization. Patient 
presented to the pre-op area, was assessed by anesthesia and 
taken to the OR on ___ for pipeline embolization of right 
ICA aneurysm. Patient tolerated the procedure well. Please see 
formal op report in OMR for further intra operative details. The 
patient was transferred to the PACU for psot op care. Patient's 
groin access was perclosed, but patient continued to have 
bleeding. Pressure was held and patient remained flat for 
extended time. On ___ the patient remained neurologically 
intact on examination.

#New O2 Requirement
The patient was noted to have a new O2 requirement of 3L post 
procedure. A CXR was performed which revealed mild pulmonary 
vascular congestion and elevation of R hemidiaphragm. Duonebs 
were ordered and Incentive Spirometry encouraged.
On ___ she was weaned successfully of the O2 and patient did 
not have any SOB or chest pain, was able to do 1.5lt on IS 

#Tachycardia, resolved
The patient was noted to have tachycardia which reached into the 
150s both at rest and with ambulation. She was asymptomatic 
during these events. An EKG was obtained which revealed NSR.
On ___ her tachycardia was resolved

#Dispo 
Home
 
Medications on Admission:
- Brilinta 90mg BID
- aspirin 81mg daily
- multivitamin
- naproxen prn pain. 
 
Discharge Medications:
1.  Docusate Sodium 100 mg PO BID 
RX *docusate sodium [Colace] 100 mg 1 capsule(s) by mouth twice 
a day Disp #*20 Capsule Refills:*0 
2.  TiCAGRELOR 90 mg PO BID 
RX *ticagrelor [Brilinta] 90 mg 1 tablet(s) by mouth twice a day 
Disp #*60 Tablet Refills:*0 
3.  Acetaminophen 325-650 mg PO Q6H:PRN fever or pain 
RX *acetaminophen 325 mg ___ tablet(s) by mouth every 6h Disp 
#*60 Tablet Refills:*1 
4.  Aspirin 81 mg PO DAILY 
RX *aspirin 81 mg 1 tablet(s) by mouth once a day Disp #*30 
Tablet Refills:*0 
5.  Multivitamins 1 TAB PO DAILY  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Right ICA paraclinoid aneurysm 

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Discharge Instructions
Dr. ___ Embolization 

Activity
•You may gradually return to your normal activities, but we 
recommend you take it easy for the next ___ hours to avoid 
bleeding from your groin.
•Heavy lifting, running, climbing, or other strenuous exercise 
should be avoided for ten (10) days. This is to prevent bleeding 
from your groin.
•You make take leisurely walks and slowly increase your 
activity at your own pace. ___ try to do too much all at once.
•Do not go swimming or submerge yourself in water for five (5) 
days after your procedure.
•You make take a shower.
Medications
•Resume your normal medications and begin new medications as 
directed.
•You may be instructed by your doctor to take one ___ a day 
and Brillinta. If so, do not take any other products that have 
aspirin in them. If you are unsure of what products contain 
Aspirin, as your pharmacist or call our office.
•You may use Acetaminophen (Tylenol) for minor discomfort if 
you are not otherwise restricted from taking this medication.
•If you take Metformin (Glucophage) you may start it again 
three (3) days after your procedure.
Care of the Puncture Site
•You will have a small bandage over the site.
•Remove the bandage in 24 hours by soaking it with water and 
gently peeling it off.
•Keep the site clean with soap and water and dry it carefully.
•You may use a band-aid if you wish.

What You ___ Experience:
•Mild tenderness and bruising at the puncture site (groin).
•Soreness in your arms from the intravenous lines.
•Mild to moderate headaches that last several days to a few 
weeks.
•Fatigue is very normal
•Constipation is common. Be sure to drink plenty of fluids and 
eat a high-fiber diet. If you are taking narcotics (prescription 
pain medications), try an over-the-counter stool softener.
When to Call Your Doctor at ___ for:
•Severe pain, swelling, redness or drainage from the puncture 
site. 
•Fever greater than 101.5 degrees Fahrenheit
•Constipation
•Blood in your stool or urine
•Nausea and/or vomiting
•Extreme sleepiness and not being able to stay awake
•Severe headaches not relieved by pain relievers
•Seizures
•Any new problems with your vision or ability to speak
•Weakness or changes in sensation in your face, arms, or leg
 
Followup Instructions:
___